US09062085B2
b) Preparation of (2-bromo-3,5-dimethoxyphenyl)bis(3,5-di-tert-butyl-4-methoxyphenyl)phosphine oxide
NBS (206 g, 115.7 mmol) was added to a solution of bis(3,5-di-tert-butyl-4-methoxyphenyl)(3,5-dimethoxyphenyl)phosphine oxide (70 g, 112.4 mmol) in CH2Cl2 (350 mL) at 0° C. The resulting suspension was stirred at 0° C. for 1 h then was warmed to RT and stirred for 4 h. The reaction was monitored by TLC until no starting material remained. The solution was washed with conc. Na2CO3 (300 mL×2) at RT. The organic layer was separated and dried over MgSO4. It was filtered and the solvent was removed to give the crude product. Hexane (400 mL) was added and the solution concentrated to 300 mL. It became cloudy and a white solid precipitated. Another 100 mL of hexane was added. The suspension was stirred at RT for 2 h. It was filtered and the solid dried under vacuum to give the product as a colourless solid (64.4 g). A second crop (7.2 g) was obtained from the mother liquor. Overall yield=90.9%. 1H NMR (400 MHz, CDCl3) δ: 7.55 (d, J=13.2 Hz, 4H), 7.04 (dd, J1=13.2 Hz, J2=2.8 Hz, 1H), 6.65 (d, J=2.8 Hz, 1H), 3.88 (s, 3H), 3.77 (s, 3H), 3.68 (s, 6H), 1.36 (s, 36H). 31P NMR (162.0 MHz, CDCl3) δ: 32.4.

reactant | NBS | 115.7 mmol, 206 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | bis(3,5-di-tert-butyl-4-methoxyphenyl)(3,5-dimethoxyphenyl)phosphine oxide | 112.4 mmol, 70 g | C(C)(C)(C)C=1C=C(C=C(C1OC)C(C)(C)C)P(C1=CC(=CC(=C1)OC)OC)(C1=CC(=C(C(=C1)C(C)(C)C)OC)C(C)(C)C)=O | C38H55O5P
reactant | Hexane | 400 mL | CCCCCC | C6H14
solvent | CH2Cl2 | 350 mL | C(Cl)Cl | CH2Cl2
product | (2-bromo-3,5-dimethoxyphenyl)bis(3,5-di-tert-butyl-4-methoxyphenyl)phosphine oxide | 64.4 g, yield=90.9% | BrC1=C(C=C(C=C1OC)OC)P(C1=CC(=C(C(=C1)C(C)(C)C)OC)C(C)(C)C)(C1=CC(=C(C(=C1)C(C)(C)C)OC)C(C)(C)C)=O | C38H54BrO5P
